US07375104B2
g) 1-{3-[2-(7-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-diethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one
A suspension of 7-benzyloxy-5-oxiranyl-1H-quinolin-2-one (112 mg, 0.382 mmol) and 1-(3-amino-3-methylbutyl)-4,4-diethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one (220 mg, 0.758 mmol) in isopropanol (1.0 mL) is heated in the microwave for 1 hour to 135° C. The mixture is diluted with EtOAc (10 mL) and washed with 0.5 M aqueous tartaric acid solution, whereupon half the product is precipitated. The phases are separated and the aqueous suspension is combined with MeOH until a clear solution is obtained again. The aqueous phase is extracted with dichloromethane and the combined organic phases are dried with sodium sulfate and evaporated down in vacuo. The residue is stirred with EtOAc and the precipitate is filtered off and dried in vacuo. Yield: 152 mg (68%); HPLC-MS: Rt=14.8 min. (method A).

reactant | 7-benzyloxy-5-oxiranyl-1H-quinolin-2-one | 0.382 mmol, 112 mg | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C1OC1 | C18H15NO3
reactant | 1-(3-amino-3-methylbutyl)-4,4-diethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 0.758 mmol, 220 mg | NC(CCN1C(OC(C2=C1C=CC=C2)(CC)CC)=O)(C)C | C17H26N2O2
solvent | isopropanol | 1.0 mL | C(C)(C)O | C3H8O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 1-{3-[2-(7-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-diethyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C(CNC(CCN1C(OC(C2=C1C=CC=C2)(CC)CC)=O)(C)C)O | C35H41N3O5
